US07414060B2
Step 2: 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide:
The title compound, was prepared in accordance with the general method of Example 78, step 2 from 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester and 2-amino-4-methylthiazole to yield the final compound as an off-white solid, MS (ISP): m/e=327.1 (M+H+).

reactant | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C13H14N4O2
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C15H14N6OS
